US07723333B2
2-ter-Butyl-4-{[1-(6-chloropyridazin-3-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.450 g, 1.50 mmol), 1-(6-chloropyridazin-3-yl)piperidin-4-amine (0.487 g, 1.95 mmol) and TEA (0.456 g, 4.50 mmol) was dissolved in dry MeCN (15 ml) and heated in a microwave reactor at 120° C. for 30 mins. The reaction mixture was evaporated and the residue was diluted with EtOAc (150 ml) and washed with water (500 ml). The organic phase was dried over MgSO4, filtered and evaporated. The residue was purified by silica gel column chromatography using a 60:40→50:50 mixture of heptane and EtOAc as eluant, to give the title compound (0.191 g, 27%). 1H NMR (500 MHz, CDCl3): δ 7.55-7.50 (m, 2H), 7.47-7.43 (m, 3H), 7.15 (d, 1H), 6.81 (d, 1H), 5.20 (d, 1H), 4.11-4.05 (m, 2H), 3.22-3.13 (m, 1H), 2.60-2.52 (m, 2H), 1.80-1.73 (m, 2H), 1.72 (s, 9H), 1.41-1.32 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 159.5, 158.6, 147, 133.8, 131.6, 130, 128.8, 128.7, 125, 115.4, 107.3, 61.6, 50, 43.8, 31.6, 27.6.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.50 mmol, 0.450 g | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-(6-chloropyridazin-3-yl)piperidin-4-amine | 1.95 mmol, 0.487 g | ClC1=CC=C(N=N1)N1CCC(CC1)N | C9H13ClN4
solvent | MeCN | 15 ml | CC#N | C2H3N
product | 2-ter-Butyl-4-{[1-(6-chloropyridazin-3-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.191 g, 27% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C=1N=NC(=CC1)Cl)C1=CC=CC=C1)(=O)=O | C22H26ClN5O3S
